US04059433
In the manner of Example V D, a mixture of 11 g of 5-amino-4-cyano-3-isopropoxyisothiazole and 6.8 g of methyl isocyanate in 50 ml of dry tetrahydrofuran containing 2 ml of dibutyltin diacetate were allowed to react under reflux overnight. Volatile materials were removed under reduced pressure and the residue was recrystallized from ethyl acetate to yield 10.8 g of 1-methyl-3-(4-cyano-3-isopropoxy-5-isothiazolyl)urea, mp 238° (decomposes.) The ir and nmr spectra were consistent with the assigned structure.

reactant | 5-amino-4-cyano-3-isopropoxyisothiazole | 11 g | NC1=C(C(=NS1)OC(C)C)C#N | C7H9N3OS
reactant | methyl isocyanate | 6.8 g | CN=C=O | C2H3NO
reactant | dibutyltin diacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(CCC)[Sn+2]CCCC
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-methyl-3-(4-cyano-3-isopropoxy-5-isothiazolyl)urea | 10.8 g | CNC(=O)NC1=C(C(=NS1)OC(C)C)C#N | C9H12N4O2S
